US08748429B2
(4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
NaHMDS (0.228 mL, 0.228 mmol) was added to a dimethylformamide (1 mL) solution of tert-butyl (4R,7S,8S)-7-(2,3-difluorophenyl)-4-hydroxy-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate (20.1 mg, 0.051 mmol) and 1-(1-(1H-imidazole-1-carbonyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one (23.7 mg, 0.076 mmol) at 0° C. The reaction was stirred at 0° C. for 1 h and rt for 2 h before quenching with water. The reaction was diluted with ethyl acetate and the organic layer was separated, washed with water and brine and then dried (sodium sulfate), filtered and concentrated. Flash chromatography, eluting with methanol in methylene chloride from 0 to 10% gave the desired product (18.2 mg, 56%): LCMS (M+H=641.38); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.64 (1H, s), 8.07 (1H, d, J=5.0 Hz), 7.31-7.56 (1H, m), 6.93-7.12 (4H, m), 6.22 (1H, d, J=7.5 Hz), 5.24-5.34 (1H, m), 4.96-5.07 (1H, m), 4.32-4.71 (3H, m), 3.61-3.77 (1H, m), 2.88-3.15 (2H, m), 2.29 (4H, d, J=10.5 Hz), 1.83-1.97 (4H, m), 1.30 (9H, s).

reactant | NaHMDS | 0.228 mmol, 0.228 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl (4R,7S,8S)-7-(2,3-difluorophenyl)-4-hydroxy-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate | 0.051 mmol, 20.1 mg | FC1=C(C=CC=C1F)[C@H]1[C@@H](C2=C(N=CS2)[C@@H](CC1)O)NC(OC(C)(C)C)=O | C19H22F2N2O3S
reactant | 1-(1-(1H-imidazole-1-carbonyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.076 mmol, 23.7 mg | N1(C=NC=C1)C(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C15H16N6O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 18.2 mg, 56% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=C1N=CS2)NC(=O)OC(C)(C)C)C2=C(C(=CC=C2)F)F | C31H34F2N6O5S
